simulator lang=spectre
global 0

ahdl_include "./dut/clocked_power_ready_sampler.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=330p period=1.15n width=420p rise=25p fall=25p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 1.2n 0.9 1.25n 0 9.0n 0 9.05n 0.9 10.0n 0.9 10.05n 0 16n 0]
Vvss (vss 0) vsource type=pwl wave=[0 -0.04 4n -0.04 4.05n 0.07 8n 0.07 8.05n -0.02 11.6n -0.02 11.65n -0.08 12.8n -0.08 12.85n -0.02 14.0n -0.02 14.05n 0.08 14.8n 0.08 14.85n -0.02 16n -0.02]
Vvdd (vdd 0) vsource type=pwl wave=[0 0.94 5n 0.94 5.05n 1.18 10n 1.18 10.05n 0.88 11.6n 0.88 11.65n 1.45 12.8n 1.45 12.85n 0.88 14.0n 0.88 14.05n 0.48 14.8n 0.48 14.85n 0.88 16n 0.88]
Vin0 (in0 0) vsource type=pwl wave=[0 0.18 2n 0.18 2.05n 0.74 4n 0.74 4.05n 0.36 6n 0.36 6.05n 0.90 8n 0.90 8.05n 0.24 10n 0.24 10.05n 0.68 16n 0.68]
Vin1 (in1 0) vsource type=pwl wave=[0 0.70 2n 0.70 2.05n 0.28 4n 0.28 4.05n 0.82 6n 0.82 6.05n 0.30 8n 0.30 8.05n 0.76 10n 0.76 10.05n 0.16 16n 0.16]
Vin2 (in2 0) vsource type=pwl wave=[0 0.42 3n 0.42 3.05n 0.86 6n 0.86 6.05n 0.20 9n 0.20 9.05n 0.58 16n 0.58]
Vin3 (in3 0) vsource type=pwl wave=[0 0.12 3n 0.12 3.05n 0.64 6n 0.64 6.05n 0.88 9n 0.88 9.05n 0.32 16n 0.32]
Vctrl0 (ctrl0 0) vsource type=pwl wave=[0 0.0 3n 0.0 3.05n 0.9 6n 0.9 6.05n 0.0 9n 0.0 9.05n 0.9 16n 0.9]
Vctrl1 (ctrl1 0) vsource type=pwl wave=[0 0.0 4.5n 0.0 4.55n 0.9 8n 0.9 8.05n 0.0 12n 0.0 12.05n 0.9 16n 0.9]
Ven (en 0) vsource type=pwl wave=[0 0.9 6.8n 0.9 6.85n 0 7.8n 0 7.85n 0.9 16n 0.9]
XDUT (clk rst in0 in1 in2 in3 ctrl0 ctrl1 vdd vss en out flag metric) clocked_power_ready_sampler

tran tran stop=16n maxstep=10p
save clk rst in0 in1 in2 in3 ctrl0 ctrl1 vdd vss en out flag metric time
